US08466282B2
1-(5-hydroxypentyl)-N-(2-methylpropyl)-N-[(3S,5R)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl]-1H-benzimidazole-2-carboxamide dihydrochloride
tert-Butyl (3S,5R)-3-[{[1-(5-hydroxypentyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate (100 mg) was dissolved in 10-20% hydrogen chloride-methanol (5 ml), and the mixture was stirred at room temperature for 15 hr. The reaction mixture was concentrated, and the residue was subjected to reversed-phase preparative HPLC and the eluted fraction was concentrated under reduced pressure. The residue was diluted with aqueous sodium bicarbonate, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. 10-20% Hydrogen chloride-methanol (3 ml) was added and the mixture was stirred for 5 min. The solvent was evaporated under reduced pressure to give the object product (34 mg).

reactant | tert-Butyl (3S,5R)-3-[{[1-(5-hydroxypentyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 100 mg | OCCCCCN1C(=NC2=C1C=CC=C2)C(=O)N([C@@H]2CN(C[C@@H](C2)C(=O)N2CCOCC2)C(=O)OC(C)(C)C)CC(C)C | C32H49N5O6
reactant | hydrogen chloride methanol | 5 ml | Cl.CO
product | 1-(5-hydroxypentyl)-N-(2-methylpropyl)-N-[(3S,5R)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl]-1H-benzimidazole-2-carboxamide dihydrochloride | 34 mg | Cl.Cl.OCCCCCN1C(=NC2=C1C=CC=C2)C(=O)N([C@@H]2CNC[C@@H](C2)C(=O)N2CCOCC2)CC(C)C | InChI=1S/C27H41N5O4.2ClH/c1-20(2)19-32(22-16-21(17-28-18-22)26(34)30-11-14-36-15-12-30)27(35)25-29-23-8-4-5-9-24(23)31(25)10-6-3-7-13-33;;/h4-5,8-9,20-22,28,33H,3,6-7,10-19H2,1-2H3;2*1H/t21-,22+;;/m1../s1
